US07220744B2
2-Cyclohexyloxy-5-methanesulfonyl-benzoic acid
Prepared in analogy to Example A1 (b) from 2-chloro-5-methanesulfonyl-benzoic acid (Example A1(a)) and cyclohexanol. The crude material was purified by preparative HPLC to yield the title compound as a white solid. MS (m/e): 297.3 ([M−H]−, 100%).

reactant | 2-chloro-5-methanesulfonyl-benzoic acid | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7ClO4S
reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
product | 2-Cyclohexyloxy-5-methanesulfonyl-benzoic acid | C1(CCCCC1)OC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C14H18O5S
